US06727264B1
N-{3-[1-(3-{[(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and (4-fluorophenyl)acetyl chloride: ESMS m/e: 440.3 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | (4-fluorophenyl)acetyl chloride | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | THF | C1CCOC1 | C4H8O
product | N-{3-[1-(3-{[(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)CC(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H34FN3O2
